US07405300B2
Step 4: 2-(piperazin-1-yl)-1-(pyridin-3-yl)-1H-indole-3-carboxaldehyde
2-chloro-1-(pyridin-3-yl)-1,3-dihydroindole-3-carboxaldehyde is reacted with piperazine as described in Example 2 to give, after flash chromatography, the title compound (23% yield).

reactant | 2-chloro-1-(pyridin-3-yl)-1,3-dihydroindole-3-carboxaldehyde | ClC1N(C2=CC=CC=C2C1C=O)C=1C=NC=CC1 | C14H11ClN2O
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2-(piperazin-1-yl)-1-(pyridin-3-yl)-1H-indole-3-carboxaldehyde | 23% yield | N1(CCNCC1)C=1N(C2=CC=CC=C2C1C=O)C=1C=NC=CC1 | C18H18N4O
